US08232405B2
5,5-Dimethyl-1,3-dibromohydantoin (13.1 g, 46 mmol) and azobisisobutyronitrile (1.50 g, 9.1 mmol) were simultaneously added at 80° C. to a solution of 1-bromo-3-methoxy-5-methylbenzene (17.0 g, 91 mmol) synthesized by a method of the document (J. Med. Chem. 2001, 44, 1866) in monochlorobenzene (500 mL), and the reaction mixture was stirred at 80° C. for 30 minutes. The reaction solution was cooled to room temperature and then poured into a 10% aqueous sodium thiosulfate solution (100 mL), and the mixture was stirred for 30 minutes. The mixture was separated into aqueous and organic layers. The aqueous layer was subjected to extraction with toluene (100 mL). The combined organic layers were dried over anhydrous sodium sulfate, and the solvent was then distilled off under reduced pressure to obtain 1-bromo-3-(bromomethyl)-5-methoxybenzene. Without further purification, this compound was dissolved in triethyl phosphite (14.3 mL, 97 mmol) and toluene (50 mL), and the reaction mixture was heated under reflux for 7 hours. After cooling to room temperature, the solvent was distilled off under reduced pressure. The obtained concentrated residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=1:2) to obtain the title compound (1-2-1) (20.8 g, 64%).

reactant | 5,5-Dimethyl-1,3-dibromohydantoin | 46 mmol, 13.1 g | CC1(C(N(C(N1Br)=O)Br)=O)C | C5H6Br2N2O2
reactant | azobisisobutyronitrile | 9.1 mmol, 1.50 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | 1-bromo-3-methoxy-5-methylbenzene | 91 mmol, 17.0 g | BrC1=CC(=CC(=C1)C)OC | C8H9BrO
reactant | sodium thiosulfate | 100 mL | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | monochlorobenzene | 500 mL | ClC1=CC=CC=C1 | C6H5Cl
product | 1-bromo-3-(bromomethyl)-5-methoxybenzene | BrC1=CC(=CC(=C1)OC)CBr | C8H8Br2O
